US09428452B2
Preparation of N-(2,4-dimethylphenyl)-N-isobutyl-4-(((tetrahydro-2H-pyran-4-yl)methoxy)methyl)benzenesulfonamide (Example 18)
To a solution of crude 4-(bromomethyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide (100 mg, 0.122 mmol) and (tetrahydro-2H-pyran-4-yl)methanol (14.15 mg, 0.122 mmol) in 2-methyltetrahydrofuran (2-MeTHF) (1 mL) and dimethyl sulfoxide (DMSO) (0.5 mL) was added sodium hydride (approximately 4.87 mg, 0.122 mmol, 60% dispersed in oil) in one charge. The reaction mixture was stirred at 20° C. for 16 hours. The reaction was then quenched with methanol (0.5 mL) and water (0.5 mL) and concentrated in vacuo to give a residue in DMSO. This was diluted with dichloromethane (10 mL) and water (10 mL) and stirred vigorously for 10 minutes. The layers were separated by hydrophobic frit and the organic fraction evaporated to give the crude product. The sample was then purified by mass directed autoprep (formic acid modifier). The appropriate fractions were concentrated under a stream of nitrogen to give the required product, 4.2 mg. LCMS [LCMS1] Rt 1.44 min, m/z (ES+) 446 (M+H).

reactant | 4-(bromomethyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide | 0.122 mmol, 100 mg | BrCC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C19H24BrNO2S
reactant | (tetrahydro-2H-pyran-4-yl)methanol | 0.122 mmol, 14.15 mg | O1CCC(CC1)CO | C6H12O2
reactant | sodium hydride | 0.122 mmol, approximately 4.87 mg | [H-].[Na+]
solvent | 2-methyltetrahydrofuran | 1 mL | CC1OCCC1 | C5H10O
solvent | dimethyl sulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | N-(2,4-dimethylphenyl)-N-isobutyl-4-(((tetrahydro-2H-pyran-4-yl)methoxy)methyl)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)COCC1CCOCC1)CC(C)C | C25H35NO4S
